USRE028973
5-hydroxy-3-[2-(4-hydroxy-4-phenylpiperidinyl)ethyl] indole
A solution of 10 g. of 5-benzyloxy-3-[2-(4-hydroxy-4-phenylpiperidinyl)ethyl]indole in 10 ml. of ethanol was shaken on the Parr apparatus at room temperature at an initial pressure of 50 p.s.i., using a 10% palladium on charcoal catalyst. After debenzylation was complete the solution was filtered and the catalyst washed thoroughly with three 100 ml. portions of hot ethanol. Concentration of the original filtrate gave 3 g. of an oil which solidified and was recrystallized from ethyl acetate-methanol to give 1.85 g. of material which melted at 150° C., resolidified and melted again at 235°-240° C. The combined alcohol washes on concentration gave 4 g. of a white solid which after recrystallization from ethyl acetate-methanol gave 3.4 g. of material which melted at 150° C., recrystallized and melted again at 235°-240° C. A nuclear magnetic resonance spectrum indicated the above solids to be solvated with methanol. A sample was dried in vacuo at 110° for 24 hours; the dried sample melted at 238°-240° C.

reactant | 5-benzyloxy-3-[2-(4-hydroxy-4-phenylpiperidinyl)ethyl]indole | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)CCN1CCC(CC1)(C1=CC=CC=C1)O | C28H30N2O2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 5-hydroxy-3-[2-(4-hydroxy-4-phenylpiperidinyl)ethyl] indole | OC=1C=C2C(=CNC2=CC1)CCN1CCC(CC1)(C1=CC=CC=C1)O | C21H24N2O2
